US07115645B2
a) 3-(3,4-Dimethoxyphenyl)amino-4-nitrophenol
3 g of 3-fluoro-4-nitrophenol and 8.8 g of 3,4-dimethoxyaniline were mixed and stirred for 2 hours at 150° C. After cooling, it was dissolved in dichloromethane and extracted twice with 1N aqueous hydrochloric acid. The aqueous phase was extracted twice with chloroform, and the combined chloroform extracts were dried on sodium sulfate and concentrated by evaporation in a vacuum.

reactant | 3-fluoro-4-nitrophenol | 3 g | FC=1C=C(C=CC1[N+](=O)[O-])O | C6H4FNO3
reactant | 3,4-dimethoxyaniline | 8.8 g | COC=1C=C(N)C=CC1OC | C8H11NO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 3-(3,4-Dimethoxyphenyl)amino-4-nitrophenol | COC=1C=C(C=CC1OC)NC=1C=C(C=CC1[N+](=O)[O-])O | C14H14N2O5
